US04387238
Following the procedure of Example 34, monoethyl potassium epoxysuccinate (1.0 g) was successively treated with oxalyl chloride (0.75 g) and diisobutylamine (1.3 g) to give 0.81 g of ethyl N,N-diisobutyl-2,3-epoxysuccinamate (Compound No. 56) as colorless oil.

reactant | monoethyl potassium epoxysuccinate | 1.0 g | O1C(C(=O)O)C1C(=O)O.C(C)[K]
reactant | oxalyl chloride | 0.75 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diisobutylamine | 1.3 g | C(C(C)C)NCC(C)C | C8H19N
product | ethyl N,N-diisobutyl-2,3-epoxysuccinamate | 0.81 g | C(C(C)C)N(C(C1C(C(=O)OCC)O1)=O)CC(C)C | C14H25NO4
